US08222416B2
A solution of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (460 mg, 0.74 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 4 mL, 4 mmol) was stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (150 mL) and then washed with a saturated aqueous ammonium chloride solution, brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (315 mg, 88.5%) as a light yellow solid: LC/MS m/e calcd for C27H32N2O4S [M+H]+ 481.63, observed 481.1.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 0.74 mmol, 460 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)CC2OC(OC2)(C)C)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C33H36N2O6S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mmol, 1 M, 4 mL | O1CCCC1 | C4H8O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 315 mg, 88.5% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC2OC(OC2)(C)C)N1 | C27H32N2O4S
